US06423717B1
5-Chloro-3-methyl-benzo[b]thiophene-2-sulphonic Acid [4-Hydroxy-3-(4-methyl-piperazin-1-yl)-phenyl]-amide (E113)
To a suspension of boron tribromide dimethyl sulphide complex (620 mg, 2 mmol) in 1,2 dichloroethane (30 ml) under argon was added 5-chloro-3-methyl-benzo[b]thiophene-2-sulphonic acid [4-methoxy-3-(4-methyl-piperazin-1-yl)phenyl]amide (E17) (0.2 mmol). The reaction mixture was heated to reflux for 12 hrs, cooled, quenched by the addition of water (20 ml) and partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic phase was dried over sodium sulphate and concentrated in vacuo. The residue was purified by chromatography on silica gel to afford the title compound (E113). Found MH+ 452/454

reactant | 5-chloro-3-methyl-benzo[b]thiophene-2-sulphonic acid [4-methoxy-3-(4-methyl-piperazin-1-yl)phenyl]amide | 0.2 mmol | COC1=C(C=C(C=C1)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)N2CCN(CC2)C | C21H24ClN3O3S2
solvent | 1,2 dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 5-Chloro-3-methyl-benzo[b]thiophene-2-sulphonic Acid [4-Hydroxy-3-(4-methyl-piperazin-1-yl)-phenyl]-amide | OC1=C(C=C(C=C1)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)N2CCN(CC2)C | C20H22ClN3O3S2
